US04647660
(A) α-(3,4-Dihydroxyphenyl)glycine, diphenylmethyl ester
Into a stirred suspension of 1.83 g (10.0 mmol) of α-(3,4-dihydroxyphenyl)glycine and 1.96 g (10.0 mmol) of toluenesulfonic acid monohydrate (97%) in 5 ml of dry dimethylformamide, a solution of freshly prepared diphenyldiazomethane (2.91 g, 15.0 mmoles) in 10 ml of dimethylformamide was dropped at 50° C. and stirring was continued for 10 minutes. The solvent was evaporated in vacuo, the residue was taken up in ice water/ethyl acetate and the pH was brought to 7.5 by addition of dilute sodium hydroxide. The organic layer was separated, washed with sodium bicarbonate solution and brine, dried (sodium sulfate) and evaporated in vacuo to leave a solid which was stirred with ether. Yield (after filtration and drying in vacuo): 1.89 g, melting point 155°-158° C.

reactant | α-(3,4-dihydroxyphenyl)glycine | 10.0 mmol, 1.83 g | OC=1C=C(C=CC1O)C(N)C(=O)O | C8H9NO4
reactant | toluenesulfonic acid monohydrate | 10.0 mmol, 1.96 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | diphenyldiazomethane | 15.0 mmoles, 2.91 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | α-(3,4-Dihydroxyphenyl)glycine, diphenylmethyl ester | OC=1C=C(C=CC1O)C(N)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19NO4
